US06335353B1
1,6-Dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride
1,6-Dimethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1 H)-one hydrochloride (1.55 g, 5 mmol) was dissolved in methanol (40 ml)/water (10 ml) and hydrogenated for 4 hours in the presence of 5% Pd/C (0.3 g). Following filtration the filtrate was concentrated in vacuo and the crude material recrystallised from methanol/diethyl ether gave the pure title compound (0.95 g, 86.5%) as a white crystalline solid. m.p. 156-159° C.

reactant | 1,6-Dimethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1 H)-one hydrochloride | 5 mmol, 1.55 g | Cl.CN1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COC
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 1,6-Dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride | 0.95 g, 86.5% | Cl.CN1C(=C(C(C=C1C)=O)O)COC | InChI=1S/C9H13NO3.ClH/c1-6-4-8(11)9(12)7(5-13-3)10(6)2;/h4,12H,5H2,1-3H3;1H
